### PR TITLE
Associativity of species composition

### PR DESCRIPTION
**Pull request by VictorBlanchi**

### CODE REVIEW

File: src/foundation-core/diagonal-maps-of-types.lagda.md [hunk 1]
```diff
@@ -63,6 +63,25 @@ module _
...
+  equiv-diagonal-is-prop :
+    is-prop A → A ≃ (A × A)
+  pr1 (equiv-diagonal-is-prop is-prop-A) = diagonal A
+  pr2 (equiv-diagonal-is-prop is-prop-A) =
+    is-equiv-has-inverse
+      ( pr1)
+      ( λ pair-a → eq-pair (eq-is-prop is-prop-A ) (eq-is-prop is-prop-A))
+      ( λ a → eq-is-prop is-prop-A)
+
+equiv-add-redondent-prop :
```
Comment (EgbertRijke) [inline src/foundation-core/diagonal-maps-of-types.lagda.md:76]: Perhaps this should be in type-arithmetic-cartesian-product-types, close to the unit laws

File: src/foundation/decidable-embeddings.lagda.md [hunk 2]
```diff
@@ -338,4 +339,36 @@ abstract
...
+  where
+
+  is-decidable-emb-tot :
+    {f : (x : A) → B x → C x} →
+    ((x : A) → is-decidable-emb (f x)) → is-decidable-emb (tot f)
+  is-decidable-emb-tot H =
+    ( is-emb-tot (λ x → is-emb-is-decidable-emb (H x)) ,
+      is-decidable-map-tot λ x → is-decidable-map-is-decidable-emb (H x))
+
+  tot-decidable-emb : ((x : A) → B x ↪d C x) → Σ A B ↪d Σ A C
```
Comment (EgbertRijke) [inline src/foundation/decidable-embeddings.lagda.md:370]: call this `decidable-emb-tot`, analogous to `emb-tot` and `equiv-tot`

File: src/foundation/decidable-equivalence-relations.lagda.md [hunk 3]
```diff
@@ -442,3 +469,79 @@ module _
           ( forward-implication (P a))
           ( F t a))
 ```
+
+#### The type of decidable equivalence relations on `A` is equivalent to the type of surjections from `A` into a type with decidable equality.
+
+```agda
+has-dec-eq-if-is-dec-rel-equiv-surj :
+  {l1 : Level} {A : UU l1} (B : Set l1) (f : A ↠ type-Set B)→
```
Comment (EgbertRijke) [inline src/foundation/decidable-equivalence-relations.lagda.md:477]: Assume an element of `Surjection-Into-Set` instead of `B` and `f` separately

File: src/foundation/decidable-equivalence-relations.lagda.md [hunk 4]
```diff
@@ -442,3 +469,79 @@ module _
...
+  ( (x y : A) →
+    is-decidable ( sim-Eq-Rel (eq-rel-Surjection-Into-Set (B , f)) x y)) →
+  has-decidable-equality (type-Set B)
```
Comment (EgbertRijke) [inline src/foundation/decidable-equivalence-relations.lagda.md:480]: The conclusion here should be `has-decidable-equality (type-Surjection-Into-Set f)` after you assume that `f` is an element of type `Surjection-Into-Set ...`

File: src/foundation/decidable-equivalence-relations.lagda.md [hunk 5]
```diff
@@ -442,3 +469,79 @@ module _
...
+        is-prop-is-decidable (is-set-type-Set B s t)))
+    ( λ a1 a2 → is-dec-rel a1 a2)
+    ( x)
+    ( y)
+
+is-dec-rel-equiv-surj-if-has-dec-eq :
+  {l1 : Level} {A : UU l1} (B : Set l1) (f : A ↠ type-Set B)→
+  has-decidable-equality (type-Set B) →
+  ( (x y : A) →
+    is-decidable ( sim-Eq-Rel (eq-rel-Surjection-Into-Set (B , f)) x y))
```
Comment (EgbertRijke) [inline src/foundation/decidable-equivalence-relations.lagda.md:496]: We should have a predicate `is-decidable-Eq-Rel` which asserts that an equivalence relation is decidable. Then use this predicate, instead of the explicit `(x y : A) → is-decidable ( sim-Eq-Rel (eq-rel-Surjection-Into-Set (B , f)) x y)`. Once you do this, we see that a clearer name for this function is `is-decidable-eq-rel-Surjection-Into-Set`

File: src/foundation/decidable-equivalence-relations.lagda.md [hunk 6]
```diff
@@ -442,3 +469,79 @@ module _
...
+is-dec-rel-equiv-surj-if-has-dec-eq B f dec-eq x y =
+  dec-eq (map-surjection f x) (map-surjection f y)
+
+equiv-surjection-into-set-Dec-Eq-Rel :
```
Comment (EgbertRijke) [inline src/foundation/decidable-equivalence-relations.lagda.md:500]: This name should be `equiv-surjection-into-set-Decidable-Equivalence-Relation`

File: src/foundation/decidable-relations.lagda.md [hunk 7]
```diff
@@ -47,4 +51,17 @@ module _
     (x y : X) → is-decidable (type-Decidable-Relation x y)
   is-decidable-type-Decidable-Relation x y =
     is-decidable-type-decidable-Prop (R x y)
+
+equiv-relation-is-decidable-Decidable-Relation :
+  {l1 l2 : Level} {X : UU l1} →
+  Decidable-Relation l2 X ≃
+  Σ ( X → X → Prop l2) (λ R → ((x y : X) → is-decidable (type-Prop (R x y))))
```
Comment (EgbertRijke) [inline src/foundation/decidable-relations.lagda.md:58]: We should again have a predicate `is-decidable-Relation`, which can then be used here instead of the explicit `((x y : X) → is-decidable (type-Prop (R x y)))`

File: src/foundation/discrete-relaxed-sigma-decompositions.lagda.md [hunk 8]
```diff
@@ -0,0 +1,114 @@
...
+  pr1 (pr2 equiv-discrete-is-discrete-Relaxed-Σ-Decomposition) x =
+    ( map-equiv (compute-raise-unit l4) ∘ terminal-map ,
+      is-equiv-comp
+        ( map-equiv (compute-raise-unit l4))
+        ( terminal-map)
+        ( is-equiv-terminal-map-is-contr (is-discrete x))
+        ( is-equiv-map-equiv ( compute-raise-unit l4)))
+  pr2 (pr2 equiv-discrete-is-discrete-Relaxed-Σ-Decomposition) a =
+    eq-pair-Σ
+      (  ap ( λ f → map-equiv f a)
```
Comment (EgbertRijke) [inline src/foundation/discrete-relaxed-sigma-decompositions.lagda.md:90]: There is a double space here before `ap`, should be a single space.

File: src/foundation/inhabited-types.lagda.md [hunk 9]
```diff
@@ -185,6 +186,24 @@ pr2 (Σ-Inhabited-Type X Y) =
     ( λ x → is-inhabited-type-Inhabited-Type (Y x))
 ```
 
+### Inhabited types are closed under maps
+
+```agda
+map-Inhabited-Type :
```
Comment (EgbertRijke) [inline src/foundation/inhabited-types.lagda.md:192]: `map-is-inhabited`

File: src/foundation/surjective-maps.lagda.md [hunk 10]
```diff
@@ -294,6 +294,24 @@ apply-dependent-universal-property-surj-is-surjective :
...
+    ( H)
+    ( λ b → C s b)
+    ( λ y →
+      apply-dependent-universal-property-surj-is-surjective
+        ( f)
+        ( H)
+        ( λ b → C b (f y))
+        (λ x → G x y)
+        ( s))
+    ( t)
```
Comment (EgbertRijke) [inline src/foundation/surjective-maps.lagda.md:314]: You can remove this `t`, if you also remove variable `t` on line 302

File: src/foundation/type-duality.lagda.md [hunk 11]
```diff
@@ -331,6 +351,56 @@ equiv-Fib-structure {l1} {l3} l P B =
...
+
+```agda
+equiv-fixed-Slice' :
+  {l1 l2 l3 : Level} (A : UU l1) (B : UU l2)
+  ( slice : Slice l3 B) →
+  ( A ≃ Σ B ( Fib B slice)) ≃ ( A ≃ pr1 slice)
+equiv-fixed-Slice' A B slice =
+  equiv-postcomp-equiv (equiv-total-fib (pr2 slice)) A
+
+equiv-fixed-Slice :
```
Comment (EgbertRijke) [inline src/foundation/type-duality.lagda.md:365]: Not sure if `equiv-fixed-Slice` is quite the right name. Perhaps `fib-Σ` if that isn't already taken?

File: src/foundation/type-duality.lagda.md [hunk 12]
```diff
@@ -331,6 +351,56 @@ equiv-Fib-structure {l1} {l3} l P B =
...
+  {l : Level} (X : UU l) (A : UU l) →
+  (X → A) ≃
+    Σ (A → UU l) (λ Y → X ≃ Σ A Y)
+equiv-fixed-Slice {l} X A =
+  ( ( equiv-Σ
+      ( λ Z → X ≃ Σ A Z)
+      ( equiv-Fib l A)
+      ( λ s → inv-equiv ( equiv-fixed-Slice' X A s))) ∘e
+  ( ( equiv-right-swap-Σ) ∘e
+  ( ( inv-left-unit-law-Σ-is-contr
```
Comment (EgbertRijke) [inline src/foundation/type-duality.lagda.md:375]: The indentation level should be increased

File: src/foundation/type-duality.lagda.md [hunk 13]
```diff
@@ -331,6 +351,56 @@ equiv-Fib-structure {l1} {l3} l P B =
...
+  {l : Level} (P : UU l → UU l) (X : UU l) (A : UU l) →
+  ( hom-structure P X A) ≃
+  ( Σ (A → Σ (UU l) (λ Z → P (Z))) ( λ Y → X ≃ (Σ A (pr1 ∘ Y ))))
+equiv-fixed-Slice-structure {l} P X A =
+  ( ( equiv-Σ
+      ( λ Y → X ≃ Σ A (pr1 ∘ Y))
+      ( equiv-Fib-structure l P A)
+      ( λ s → inv-equiv (equiv-fixed-Slice-structure' P X A s))) ∘e
+  ( ( equiv-right-swap-Σ) ∘e
+  ( ( inv-left-unit-law-Σ-is-contr
```
Comment (EgbertRijke) [inline src/foundation/type-duality.lagda.md:399]: Increase indentation level

File: src/univalent-combinatorics/composition-species-of-subuniverse.lagda.md [hunk 14]
```diff
@@ -0,0 +1,598 @@
...
+module _
+  {l1 : Level} (l2 : Level)
+  (P : subuniverse l1 l1 )
+  (Q : subuniverse (l1 ⊔ l2) (l1 ⊔ l2))
+  (C1 :
+    ( S T : species-subuniverse P Q ) → (X : type-subuniverse P) →
+    is-small (l1 ⊔ l2) (analytic-comp-species-subuniverse' l2 P Q S T X))
+  (C2 :
+    ( S T : species-subuniverse P Q ) → (X : type-subuniverse P) →
+    type-Prop (Q (type-is-small (C1 S T X))))
```
Comment (EgbertRijke) [inline src/univalent-combinatorics/composition-species-of-subuniverse.lagda.md:95]: use `is-in-subuniverse` instead of `type-Prop`

File: src/univalent-combinatorics/composition-species-of-subuniverse.lagda.md [hunk 15]
```diff
@@ -0,0 +1,598 @@
...
+    ( type-Inhabited-Type-𝔽' X)
+pr2 (finite-Σ-Decomposition-subuniverse-Inhabited-Type-𝔽 X) =
+  is-finite-Σ-Decomposition-subuniverse-Inhabited-Type-𝔽 X
+
+module _
+  {l1 l2 : Level}
+  where
+
+  finite-analytic-comp-species-subuniverse' :
+    ( S T : species-inhab-𝔽 l1 (l1 ⊔ l2) ) (X :  Inhabited-Type-𝔽' l1) →
```
Comment (EgbertRijke) [inline src/univalent-combinatorics/composition-species-of-subuniverse.lagda.md:470]: Use `Inhabited-Type-𝔽` instead of `Inhabited-Type-𝔽'`

File: src/univalent-combinatorics/decidable-equivalence-relations.lagda.md [hunk 16]
```diff
@@ -87,10 +111,146 @@ module _
...
 
 ## Properties
 
+#### The type of decidable equivalence relations on `A` is equivalent to the type of surjections from `A` into a finite type.
+
+```agda
+equiv-surjection-into-𝔽-Dec-Eq-Rel-𝔽 :
+  {l1 : Level} (A : 𝔽 l1) →
+  Decidable-Equivalence-Relation-𝔽 l1 A ≃
+  Σ (𝔽 l1) (λ B → (type-𝔽 A) ↠ (type-𝔽 B))
```
Comment (EgbertRijke) [inline src/univalent-combinatorics/decidable-equivalence-relations.lagda.md:183]: Perhaps in the file `univalent-combinatorics.surjective-maps` we should have a definition `Surjection-𝔽` for this sigma type.

File: src/univalent-combinatorics/decidable-equivalence-relations.lagda.md [hunk 17]
```diff
@@ -87,10 +111,146 @@ module _
...
+          is-finite-is-symmetric-Dec-Rel-Prop-𝔽
+          is-finite-is-transitive-Dec-Rel-Prop-𝔽)
 ```
 
 ## Properties
 
+#### The type of decidable equivalence relations on `A` is equivalent to the type of surjections from `A` into a finite type.
+
+```agda
+equiv-surjection-into-𝔽-Dec-Eq-Rel-𝔽 :
```
Comment (EgbertRijke) [inline src/univalent-combinatorics/decidable-equivalence-relations.lagda.md:180]: `equiv-surjection-Decidable-Equivalence-Relation-𝔽`

File: src/univalent-combinatorics/decidable-equivalence-relations.lagda.md [hunk 18]
```diff
@@ -87,10 +111,146 @@ module _
...
+  is-finite (Decidable-Relation l1 (type-𝔽 A))
+is-finite-Decidable-Relation-𝔽 A =
+  is-finite-Π
+    ( is-finite-type-𝔽 A)
+    ( λ a →
+      is-finite-Π
+        ( is-finite-type-𝔽 A)
+        ( λ b → is-finite-decidable-Prop))
+
+is-finite-Dec-Eq-Rel-𝔽 :
```
Comment (EgbertRijke) [inline src/univalent-combinatorics/decidable-equivalence-relations.lagda.md:246]: `is-finite-Decidable-Equivalence-Relation-𝔽`

File: src/univalent-combinatorics/dependent-function-types.lagda.md [hunk 19]
```diff
@@ -84,6 +86,19 @@ abstract
...
+  is-finite-Π' {l1} {l2} {A} {B} f g =
+    is-finite-equiv
+      (( pair
+        ( λ f {x} → f x)
+        ( is-equiv-has-inverse
+          ( λ g x → g {x})
+          ( refl-htpy)
+          ( refl-htpy))))
+      (is-finite-Π f g)
+
```
Comment (EgbertRijke) [inline src/univalent-combinatorics/dependent-function-types.lagda.md:101]: We should also make `Π-𝔽'`

File: src/univalent-combinatorics/embeddings.lagda.md [hunk 20]
```diff
@@ -34,3 +47,26 @@ is-decidable-is-emb-is-finite f HA HB =
     ( is-injective-is-emb)
     ( is-decidable-is-injective-is-finite f HA HB)
 ```
+
+### If `A` can be count, then `trunc-Prop A ↪d A`
+
+```agda
+decidable-emb-trunc-Prop-count : {l : Level} {A : UU l} →
```
Comment (EgbertRijke) [inline src/univalent-combinatorics/embeddings.lagda.md:54]: line break after `:`

**Comment by EgbertRijke** [comment]
Since the theory of species is becoming quite developed now, and has a lot of files, it would make sense to create a new folder `species` that contains all files related to species

File: src/univalent-combinatorics/inhabited-finite-types.lagda.md [hunk 21]
```diff
@@ -46,6 +55,38 @@ module _
   inhabited-type-Inhabited-Type-𝔽 : Inhabited-Type l
   pr1 inhabited-type-Inhabited-Type-𝔽 = type-Inhabited-Type-𝔽
   pr2 inhabited-type-Inhabited-Type-𝔽 = is-inhabited-type-Inhabited-Type-𝔽
+
+equiv-Inhabited-Type-𝔽 :
```
Comment (EgbertRijke) [inline src/univalent-combinatorics/inhabited-finite-types.lagda.md:59]: Perhaps it is better to call this `compute-Inhabited-Type-𝔽`, because the name `equiv-Inhabited-Type-𝔽` could also be the type of equivalences between inhabited finite types.

File: src/univalent-combinatorics/inhabited-finite-types.lagda.md [hunk 22]
```diff
@@ -73,4 +114,33 @@ module _
 
   total-Fam-Inhabited-Types-𝔽 : 𝔽 (l1 ⊔ l2)
   total-Fam-Inhabited-Types-𝔽 = Σ-𝔽 X finite-type-Fam-Inhabited-Types-𝔽
+
+equiv-Fam-Inhabited-Type-𝔽 :
```
Comment (EgbertRijke) [inline src/univalent-combinatorics/inhabited-finite-types.lagda.md:118]: `compute-`

File: src/univalent-combinatorics/morphisms-finite-species.lagda.md [hunk 23]
```diff
@@ -30,120 +30,123 @@ A homomorphism between two finite species is a pointwise family of maps.
...
-type-hom-finite-species :
-  {l1 l2 l3 : Level} → finite-species l1 l2 → finite-species l1 l3 →
-  UU (lsuc l1 ⊔ l2 ⊔ l3)
-type-hom-finite-species F G =
-  hom-species (species-finite-species F) (species-finite-species G)
+-- type-hom-finite-species :
+--   {l1 l2 l3 : Level} → finite-species l1 l2 → finite-species l1 l3 →
+--   UU (lsuc l1 ⊔ l2 ⊔ l3)
+-- type-hom-finite-species F G =
+--   hom-species (species-finite-species F) (species-finite-species G)
```
Comment (EgbertRijke) [inline src/univalent-combinatorics/morphisms-finite-species.lagda.md:37]: uncomment

File: src/univalent-combinatorics/morphisms-finite-species.lagda.md [hunk 24]
```diff
@@ -30,120 +30,123 @@ A homomorphism between two finite species is a pointwise family of maps.
...
 
 ### The identity momorphisms of finite species
 
 ```agda
-id-hom-finite-species :
-  {l1 l2 : Level} (F : finite-species l1 l2) → type-hom-finite-species F F
-id-hom-finite-species F = id-hom-species (species-finite-species F)
+-- id-hom-finite-species :
+--   {l1 l2 : Level} (F : finite-species l1 l2) → type-hom-finite-species F F
+-- id-hom-finite-species F = id-hom-species (species-finite-species F)
```
Comment (EgbertRijke) [inline src/univalent-combinatorics/morphisms-finite-species.lagda.md:45]: uncomment

File: src/univalent-combinatorics/morphisms-finite-species.lagda.md [hunk 25]
```diff
@@ -30,120 +30,123 @@ A homomorphism between two finite species is a pointwise family of maps.
 ### The type of morphisms between finite species
 
 ```agda
-type-hom-finite-species :
-  {l1 l2 l3 : Level} → finite-species l1 l2 → finite-species l1 l3 →
-  UU (lsuc l1 ⊔ l2 ⊔ l3)
-type-hom-finite-species F G =
-  hom-species (species-finite-species F) (species-finite-species G)
+-- type-hom-finite-species :
```
Comment (EgbertRijke) [inline src/univalent-combinatorics/morphisms-finite-species.lagda.md:33]: Fix the commented lines of code, instead of leaving them commented

File: src/univalent-combinatorics/precategory-of-finite-species.lagda.md [hunk 26]
```diff
@@ -22,22 +22,22 @@ open import univalent-combinatorics.morphisms-finite-species
 Finite species and homomorphisms of finite species form a precategory.
 
 ```agda
```
Comment (EgbertRijke) [inline src/univalent-combinatorics/precategory-of-finite-species.lagda.md:24]: This code should be uncommented again.

File: src/univalent-combinatorics/species-of-subuniverses.lagda.md [hunk 27]
```diff
@@ -0,0 +1,98 @@
+# Species of subuniverses
```
Comment (EgbertRijke) [inline src/univalent-combinatorics/species-of-subuniverses.lagda.md:1]: The name "species of subuniverses" should perhaps be "species of types in subuniverses", because we also speak of "species of types" and not "species of universes".

File: src/univalent-combinatorics/species-of-subuniverses.lagda.md [hunk 28]
```diff
@@ -0,0 +1,98 @@
...
+species-𝔽 l1 l2 = species-subuniverse (is-finite-Prop {l1}) (is-finite-Prop {l2})
+```
+
+### Species of finite inhabited types
+
+A species of finite inhabited type is a map from the subuniverse of inhabited
+finite types to a `𝔽`.
+
+```agda
+species-inhab-𝔽 : (l1 l2 : Level) → UU (lsuc l1 ⊔ lsuc l2)
```
Comment (EgbertRijke) [inline src/univalent-combinatorics/species-of-subuniverses.lagda.md:84]: `species-Inhabited-Type-𝔽`

File: src/univalent-combinatorics/surjective-maps.lagda.md [hunk 29]
```diff
@@ -29,3 +52,65 @@ is-decidable-is-surjective-is-finite f HA HB =
...
+```agda
+  is-finite-iff-∃-surjection-has-decidable-equality :
+    is-finite X ≃
+      ( has-decidable-equality X × type-trunc-Prop (Σ ℕ (λ n → Fin n ↠ X)))
+  is-finite-iff-∃-surjection-has-decidable-equality =
+    equiv-prop
+      ( is-prop-is-finite X)
+      ( is-prop-prod is-prop-has-decidable-equality is-prop-type-trunc-Prop)
+      ( λ fin-X →
+        apply-universal-property-trunc-Prop
```
Comment (EgbertRijke) [inline src/univalent-combinatorics/surjective-maps.lagda.md:97]: This function could have a separate definition

File: src/univalent-combinatorics/surjective-maps.lagda.md [hunk 30]
```diff
@@ -29,3 +52,65 @@ is-decidable-is-surjective-is-finite f HA HB =
...
+          ( fin-X)
+          ( prod-Prop (has-decidable-equality-Prop X) (trunc-Prop _))
+          ( λ count-X →
+            ( has-decidable-equality-count count-X  ,
+              unit-trunc-Prop
+                ( pr1 count-X ,
+                  ( map-equiv (pr2 count-X)) ,
+                    ( is-surjective-map-equiv (pr2 count-X))))))
+      ( λ dec-X-surj →
```
Comment (EgbertRijke) [inline src/univalent-combinatorics/surjective-maps.lagda.md:106]: This function could have a separate definition

File: src/univalent-combinatorics/type-duality.lagda.md [hunk 31]
```diff
@@ -0,0 +1,107 @@
...
+      ( equiv-inclusion-is-full-subtype
+        ( λ f → Π-Prop (type-𝔽 B) (λ b → is-finite-Prop (fib (pr1 f) b)))
+        ( λ f →
+          is-finite-fib
+            ( pr1 f)
+            ( is-finite-type-𝔽 A)
+            ( is-finite-type-𝔽 B)))))))))
+
+Slice-surjection-𝔽 : (l : Level) {l1 : Level} (A : 𝔽 l1) → UU (lsuc l ⊔ l1)
+Slice-surjection-𝔽 l A = Σ (𝔽 l) (λ X → (type-𝔽 X) ↠ type-𝔽 A)
```
Comment (EgbertRijke) [inline src/univalent-combinatorics/type-duality.lagda.md:78]: This is the definition `Surjection-𝔽` that I mentioned earlier. Use it more often

Comment (VictorBlanchi) [reply src/univalent-combinatorics/type-duality.lagda.md:78]: I think it is not the same thing, because in `Surjection-\bF` the domain is fixed and here it is the codomain wich it fixed

File: src/foundation/type-duality.lagda.md (hunk 12 above)
Comment (VictorBlanchi) [reply src/foundation/type-duality.lagda.md:375]: I think I have not really understand indentation level for composition:
should be 
( ( ......) \circe 
( ( ......)))
or 
( (......) \circe 
  ( (......)))

(I am always using the first option)

File: src/foundation/type-duality.lagda.md (hunk 13 above)
Comment (VictorBlanchi) [reply src/foundation/type-duality.lagda.md:399]: Same

**Comment by EgbertRijke** [comment]
There were two new messages on this PR, but I can't find them, presumably because those conversations have been marked as resolved.

File: src/foundation/discrete-sigma-decompositions.lagda.md [hunk 32]
```diff
@@ -0,0 +1,114 @@
...
+open import foundation.functoriality-propositional-truncation
+open import foundation.identity-types
+open import foundation.propositional-truncations
+open import foundation.propositions
+open import foundation.sigma-decompositions
+open import foundation.subtypes
+open import foundation.type-arithmetic-dependent-pair-types
+open import foundation.unit-type
+open import foundation.universe-levels
+```
```
Comment (fredrik-bakke) [inline src/foundation/discrete-sigma-decompositions.lagda.md:20]: Please encase the import statements in a `<details>`-block.

File: src/foundation/discrete-relaxed-sigma-decompositions.lagda.md [hunk 33]
```diff
@@ -0,0 +1,114 @@
...
+open import foundation.functoriality-propositional-truncation
+open import foundation.identity-types
+open import foundation.propositional-truncations
+open import foundation.propositions
+open import foundation.relaxed-sigma-decompositions
+open import foundation.subtypes
+open import foundation.type-arithmetic-dependent-pair-types
+open import foundation.unit-type
+open import foundation.universe-levels
+```
```
Comment (fredrik-bakke) [inline src/foundation/discrete-relaxed-sigma-decompositions.lagda.md:20]: Please encase the import statements in a `<details>`-block.

File: src/foundation/trivial-relaxed-sigma-decompositions.lagda.md [hunk 34]
```diff
@@ -0,0 +1,107 @@
...
+open import foundation.functoriality-propositional-truncation
+open import foundation.identity-types
+open import foundation.propositions
+open import foundation.relaxed-sigma-decompositions
+open import foundation.subtypes
+open import foundation.type-arithmetic-dependent-pair-types
+open import foundation.type-arithmetic-empty-type
+open import foundation.unit-type
+open import foundation.universe-levels
+```
```
Comment (fredrik-bakke) [inline src/foundation/trivial-relaxed-sigma-decompositions.lagda.md:21]: Please encase the import statements in a `<details>`-block.

File: src/foundation/trivial-sigma-decompositions.lagda.md [hunk 35]
```diff
@@ -0,0 +1,129 @@
...
+open import foundation.identity-types
+open import foundation.inhabited-types
+open import foundation.propositions
+open import foundation.sigma-decompositions
+open import foundation.subtypes
+open import foundation.type-arithmetic-dependent-pair-types
+open import foundation.type-arithmetic-empty-type
+open import foundation.unit-type
+open import foundation.universe-levels
+```
```
Comment (fredrik-bakke) [inline src/foundation/trivial-sigma-decompositions.lagda.md:22]: Please encase the import statements in a `<details>`-block.

File: src/species/large-composition-species-of-types.lagda.md [hunk 36]
```diff
@@ -0,0 +1,205 @@
...
+open import foundation.relaxed-sigma-decompositions
+open import foundation.trivial-relaxed-sigma-decompositions
+open import foundation.type-arithmetic-cartesian-product-types
+open import foundation.type-arithmetic-dependent-function-types
+open import foundation.type-arithmetic-dependent-pair-types
+open import foundation.type-arithmetic-unit-type
+open import foundation.type-theoretic-principle-of-choice
+
+open import species.species-of-types
+```
```
Comment (fredrik-bakke) [inline src/species/large-composition-species-of-types.lagda.md:32]: Please encase the import statements in a `<details>`-block.

File: src/species/species-of-types-in-subuniverse.lagda.md [hunk 37]
```diff
@@ -0,0 +1,98 @@
...
+open import foundation.identity-types
+open import foundation.inhabited-types
+open import foundation.subuniverses
+open import foundation.unit-type
+open import foundation.universe-levels
+
+open import species.species-of-types
+open import univalent-combinatorics.finite-types
+open import univalent-combinatorics.inhabited-finite-types
+```
```
Comment (fredrik-bakke) [inline src/species/species-of-types-in-subuniverse.lagda.md:18]: Please encase the import statements in a `<details>`-block.

File: src/species/species-of-types.lagda.md [hunk 38]
```diff
@@ -0,0 +1,33 @@
+# Species of types
+
+```agda
+module species.species-of-types where
+
+open import foundation.equivalences
+open import foundation.identity-types
+open import foundation.univalence
+open import foundation.universe-levels
+```
```
Comment (fredrik-bakke) [inline src/species/species-of-types.lagda.md:10]: Please encase the import statements in a `<details>`-block.

File: src/univalent-combinatorics/discrete-sigma-decompositions.lagda.md [hunk 39]
```diff
@@ -0,0 +1,100 @@
...
+open import foundation.contractible-types
+open import foundation.dependent-pair-types
+open import foundation.identity-types
+open import foundation.propositions
+open import foundation.subtypes
+open import foundation.universe-levels
+
+open import univalent-combinatorics.finite-types
+open import univalent-combinatorics.sigma-decompositions
+```
```
Comment (fredrik-bakke) [inline src/univalent-combinatorics/discrete-sigma-decompositions.lagda.md:17]: Please encase the import statements in a `<details>`-block.

File: src/univalent-combinatorics/trivial-sigma-decompositions.lagda.md [hunk 40]
```diff
@@ -0,0 +1,115 @@
...
+open import foundation.identity-types
+open import foundation.inhabited-types
+open import foundation.propositions
+open import foundation.subtypes
+open import foundation.type-arithmetic-dependent-pair-types
+open import foundation.universe-levels
+
+open import univalent-combinatorics.finite-types
+open import univalent-combinatorics.sigma-decompositions
+```
```
Comment (fredrik-bakke) [inline src/univalent-combinatorics/trivial-sigma-decompositions.lagda.md:23]: Please encase the import statements in a `<details>`-block.

File: src/univalent-combinatorics/type-duality.lagda.md [hunk 41]
```diff
@@ -0,0 +1,107 @@
...
+open import foundation.propositions
+open import foundation.surjective-maps
+open import foundation.structure
+open import foundation.type-arithmetic-cartesian-product-types
+open import foundation.type-arithmetic-dependent-pair-types
+open import foundation.type-duality public
+open import foundation.type-theoretic-principle-of-choice
+open import foundation.univalence
+open import foundation.universe-levels
+```
```
Comment (fredrik-bakke) [inline src/univalent-combinatorics/type-duality.lagda.md:31]: Please encase the import statements in a `<details>`-block.

File: src/univalent-combinatorics/unions-subtypes.lagda.md [hunk 42]
```diff
@@ -0,0 +1,64 @@
...
+open import foundation.universal-property-propositional-truncation
+open import foundation.universe-levels
+
+open import univalent-combinatorics.coproduct-types
+open import univalent-combinatorics.counting
+open import univalent-combinatorics.counting-decidable-subtypes
+open import univalent-combinatorics.counting-dependent-pair-types
+open import univalent-combinatorics.embeddings
+open import univalent-combinatorics.finite-types
+```
```
Comment (fredrik-bakke) [inline src/univalent-combinatorics/unions-subtypes.lagda.md:20]: Please encase the import statements in a `<details>`-block.

File: src/foundation/type-duality.lagda.md [hunk 43]
```diff
@@ -4,17 +4,37 @@
...
+open import foundation.propositional-truncations
+open import foundation.propositions
 open import foundation.slice
 open import foundation.structure
+open import foundation.surjective-maps
+open import foundation.transport
+open import foundation.type-arithmetic-dependent-pair-types
 open import foundation.type-theoretic-principle-of-choice
 open import foundation.unit-type
 open import foundation.univalence
```
Comment (fredrik-bakke) [inline src/foundation/type-duality.lagda.md:40]: Please encase the import statements in a `<details>`-block.

File: src/univalent-combinatorics.lagda.md [hunk 44]
```diff
@@ -1,17 +1,4 @@
...
-object.
-
-Many finite structures naturally organize themselves into groupoids, in which
-the isomorphic objects are identified by the univalence axiom. Univalence can
-therefore help with counting finite structures up to isomorphism. The main piece
-of machinery that helps in this task is the general notion of π-finiteness. A
-level `k` π-finite type is a type that has finitely many connected components,
-such that all its homotopy groups up to level `k` are finite. The π-finite types
-enjoy useful closure properties, such as closedness under Σ, cartesian products,
-coproducts, and closedness under Π under a mild condition.
```
Comment (fredrik-bakke) [inline src/univalent-combinatorics.lagda.md:14]: Why was this removed?

Comment (fredrik-bakke) [reply src/univalent-combinatorics.lagda.md:14]: If this was not done intentionally by you, then I worry that there is a bug in the script `generate_namespace_index_modules.py`. 😬

Comment (EgbertRijke) [reply src/univalent-combinatorics.lagda.md:14]: Well spotted! These files are now automatically generated, but it should definitely be possible to have some explanatory text in them.

File: src/univalent-combinatorics/sigma-decompositions.lagda.md [hunk 45]
```diff
@@ -36,15 +51,15 @@ open import univalent-combinatorics.inhabited-finite-types
 
 ```agda
 Σ-Decomposition-𝔽 :
-  {l : Level} → (l1 l2 : Level) → 𝔽 l → UU (l ⊔ lsuc l1 ⊔ lsuc l2)
+  {l : Level} → (l1 l2 : Level) → UU l → UU (l ⊔ lsuc l1 ⊔ lsuc l2)
```
[the remark this answers is not in the document]
Comment (VictorBlanchi) [reply src/univalent-combinatorics/sigma-decompositions.lagda.md:54]: I remember why I have replaced `𝔽` by `UU`! If there exist a `Σ-Decomposition-𝔽` of a type `A`, then `A` is finite (the proof is in `is-finite-base-type-Σ-Decomposition-𝔽`) and then I was thinking that I should use `UU` because then for every other function using `Σ-Decomposition-𝔽` I would be able to use implicit argument for the base type `A`  of the `Σ-Decomposition-𝔽`.
But I you think it is not a good idea (because it is maybe a bit confusing) I am happy to change it :)

[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/univalent-combinatorics/sigma-decompositions.lagda.md:54]: Maybe add a new definition `Σ-Decomposition-𝔽'` for the version with `A : UU` next to it, and keep `Σ-Decomposition-𝔽` as it was. Many operations of finite types are set up directly to take arguments in `𝔽`, which I think is the way I would like to continue developing univalent combinatorics.

[the remark this answers is not in the document]
Comment (VictorBlanchi) [reply src/univalent-combinatorics/sigma-decompositions.lagda.md:54]: Ok, then what I will do is to rewrite the definition of `Σ-Decomposition-subuniverse`  which currently takes `A : UU`  to a new definition for `A : P` (where `P` is a subuniverse). Then, I will only need the right version of `Σ-Decomposition-𝔽`

[the remark this answers is not in the document]
Comment (VictorBlanchi) [reply src/univalent-combinatorics/sigma-decompositions.lagda.md:54]: (`Σ-Decomposition-subuniverse` will be a little less general with universe level, but I think I will not need it for what I am doing. Otherwise I'll generalize it by using `global-subuniverse`, but I think it will not be needed)

[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/univalent-combinatorics/sigma-decompositions.lagda.md:54]: Not using maximum generality of universe levels always results in strange errors later on. In my experience, I always regretted it when I was lazy and not defined things in maximum generality of universe levels.

[the remark this answers is not in the document]
Comment (VictorBlanchi) [reply src/univalent-combinatorics/sigma-decompositions.lagda.md:54]: Ok, so what do you think I should do? Add a definition for `Σ-Decomposition-global-subuniverse`? (because `Σ-Decomposition-subuniverse` is at maximum generality using subuniverse (and not global subuniverse))

**Comment by EgbertRijke** [comment]
Done?:)

File: src/foundation/decidable-equivalence-relations.lagda.md [hunk 46]
```diff
@@ -124,6 +138,23 @@ module _
     sim-Decidable-Equivalence-Relation x z
   transitive-Decidable-Equivalence-Relation =
     trans-Eq-Rel equivalence-relation-Decidable-Equivalence-Relation
+
+equiv-equivalence-relation-is-decidable-Dec-Eq-Rel :
+  {l1 l2 : Level} {X : UU l1} →
+  Decidable-Equivalence-Relation l2 X ≃
+  Σ ( Eq-Rel l2 X)
+    ( λ R → ((x y : X) → is-decidable (sim-Eq-Rel R x y)))
```
Comment (EgbertRijke) [inline src/foundation/decidable-equivalence-relations.lagda.md:146]: You can use `is-decidable-Eq-Rel` here

File: src/foundation/decidable-relations.lagda.md [hunk 47]
```diff
@@ -47,4 +57,17 @@ module _
...
+equiv-relation-is-decidable-Decidable-Relation :
+  {l1 l2 : Level} {X : UU l1} →
+  Decidable-Relation l2 X ≃
+  Σ ( Rel-Prop l2 X) (λ R → is-decidable-Rel-Prop R)
+pr1 equiv-relation-is-decidable-Decidable-Relation dec-R =
+  ( relation-Decidable-Relation dec-R ,
+    is-decidable-type-Decidable-Relation dec-R)
+pr2 equiv-relation-is-decidable-Decidable-Relation =
+  is-equiv-has-inverse
+    ( λ R → (λ x y → (pr1 (pr1 R x y)) , ((pr2 (pr1 R x y)) , (pr2 R x y)) ) )
```
Comment (EgbertRijke) [inline src/foundation/decidable-relations.lagda.md:70]: What are these iterated projections? It would be better to use their names.
